US04629493
2-[4-(2-quinolyloxy)phenoxy]propionic acid N,N-dimethylamide (Compound No. 6)
In 100 ml of methyl ethyl ketone, 2.3 g of the intermediate of Preparation 1 of 2-(4-hydroxyphenoxy)quinoline, 1.8 g of N,N-dimethyl-α-bromopropionic acid amide and 1.4 g of potassium carbonate were added and the mixture was refluxed for 5 hours. After the reaction, the precipitated crystal was separated by a filtration and the solvent was distilled off and the product was dried under a reduced pressure. The resulting crude crystal was recrystallized from a solvent of methanol-water to obtain 3.6 g (yield 88%) of white crystal of the object compound.

reactant | 2-(4-hydroxyphenoxy)quinoline | OC1=CC=C(OC2=NC3=CC=CC=C3C=C2)C=C1 | C15H11NO2
reactant | N,N-dimethyl-α-bromopropionic acid amide | 1.8 g | CN(C(C(C)Br)=O)C | C5H10BrNO
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 2-[4-(2-quinolyloxy)phenoxy]propionic acid N,N-dimethylamide | 3.6 g, yield 88% | CN(C(C(C)OC1=CC=C(C=C1)OC1=NC2=CC=CC=C2C=C1)=O)C | C20H20N2O3
